US08802679B2
tert-Butyl (2-{methyl[(4′-piperazin-1-ylbiphenyl-3-yl)methyl]amino}-2-oxoethyl)carbamate (180 mg) was dissolved in dichloromethane (3.6 ml), and TEA (125 mg) was added thereto under ice-cooling. Subsequently, ethyl iodide (128 mg) was added thereto, followed by stirring at room temperature overnight. To the reaction mixture was added water, followed by extraction with CHCl3. The organic layer was dried over MgSO4, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (2% MeOH/CHCl3) to obtain tert-butyl {2-[{[4′-(4-ethylpiperazin-1-yl)biphenyl-3-yl]methyl}(methyl)amino]-2-oxoethyl}carbamate (137 mg).

reactant | tert-Butyl (2-{methyl[(4′-piperazin-1-ylbiphenyl-3-yl)methyl]amino}-2-oxoethyl)carbamate | 180 mg | CN(C(CNC(OC(C)(C)C)=O)=O)CC=1C=C(C=CC1)C1=CC=C(C=C1)N1CCNCC1 | C25H34N4O3
reactant | ethyl iodide | 128 mg | C(C)I | C2H5I
reactant | water | O | H2O
solvent | dichloromethane | 3.6 ml | ClCCl | CH2Cl2
product | tert-butyl {2-[{[4′-(4-ethylpiperazin-1-yl)biphenyl-3-yl]methyl}(methyl)amino]-2-oxoethyl}carbamate | 137 mg | C(C)N1CCN(CC1)C1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CNC(OC(C)(C)C)=O)=O)C | C27H38N4O3
